Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
flank and back pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with h/o transfusion dependent thalassemia, MDS, DM, and 
asthma who presents with flank pain.  Patient reports acute 
sever left flank pain that began 2 days ago accompanied by some 
dry heaves, no fever. At that time, she presented to ED where 
CTU demonstrated a tiny UVJ stone and UA notable for blood.  She 
was discharged home with vicodin, and plan for outpatient 
management. At home, she noted no improvement in her symptoms 
and when she presented to her regular appointment for blood 
transfusion yesterday, where she complained of worsening pain 
and was sent to the ED for evaluation. The patient also notes 
increased urinary frequency, mild dysuria and occasionally 
seeing blood in the urine. Also endorses some pain with flexion 
of her left leg. She has had no fevers, chills, diarrhea, 
constipation, bleeding, melena or other complaints.
.
In ED, initial VS were T96.7, BP172/56, HR 68, RR 18, O2 96%RA.  
Labs showed elevated cr to 1.6 from ___ yesteday (her previous 
normal baseline).  Her UA showed RBC's, no WBC's but cultures 
from the ___ were growing > 100K GNR's.  Ultrasound showed 
fullness of the left collecting system and a left UVJ stone that 
was more prominent on exam. The patient was seen by urology in 
the ED who felt that this was likely UTI w/ stone rather than 
stone with secondary infection and that stone was an unlikely 
cause for her renal failure. She was admitted to medicine for 
management and was given 6mg IV morphine, cipro 400mg IV, flomax 
0.4mg prior to admission.
.
Last VS prior to transfer were: T99, 64 159/47 16 99%RA, 1L in 
Ed, 18 guage IV. 
.
On the floor, the patient reports her pain is well controlled.
 
Past Medical History:
Anemia ___ beta thalassemia trait
MDS
___ thrombocytosis
H.pylori s/p treatment
Type 2 diabetes diagnosed ___.
Asthma.
Hypertension.
Osteoporosis.
Lumbar spinal stenosis.
Hypercholesterolemia.

PAST SURGICAL HISTORY:
Status post appendectomy at age ___.
She has had multiple trigger finger releases.
Fibroidectomy in the past.
 
Social History:
___
Family History:
She is of ___ background. She never knew her father. Her 
mother died at age ___ and had a history of thalassemia. 
 
Pertinent Results:
___ 10:05AM   WBC-18.3* RBC-3.90*# HGB-9.7*# HCT-28.9*# 
MCV-74* MCH-25.0*# MCHC-33.6 RDW-26.0*
___ 10:05AM   NEUTS-66 BANDS-8* LYMPHS-12* MONOS-4 EOS-0 
BASOS-0 ATYPS-1* METAS-6* MYELOS-3* NUC RBCS-9*
___ 10:05AM   PLT SMR-NORMAL PLT COUNT-157
___ 10:05AM   ___ PTT-30.1 ___
___ 10:05AM   GLUCOSE-248* UREA N-31* CREAT-1.1 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-25 ANION GAP-14
.
___ 10:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 10:20AM URINE  ___ WBC-0 BACTERIA-FEW YEAST-NONE 
___
.
URINE CX  <10,000 organisms/ml.
.
ECG ___: Sinus rhythm. Left ventricular hypertrophy. 
Non-specific lateral ST-T wave change. Compared to the previous 
tracing of ___ no diagnostic interim change. 
ECG ___: Sinus rhythm. Left ventricular hypertrophy by voltage 
criteria in the limb leads. Otherwise, compared to the previous 
tracing of ___ there is no major change. 
.
CT urogram
1. Tiny stone in the left ureterovesical junction causing mild 
left 
pelviectasis and delayed excretion from the left kidney. 
Additional 
non-obstructing stones in the left kidney. 
  
2. Renal hyperdense and hypodense cysts, better assessed on 
recent MRI. 
  
3. Splenomegaly without evidence of splenic rupture or 
subcapsular hematoma. 
.
RENAL U/S
1. Left ureterovesicular junction calculus with mild left 
pelvicalyectasis, 
slightly increased when compared to prior exam. Non-obstructing 
left renal 
calculi, unchanged.  
2. Bilateral renal cysts, not significantly changed from prior 
exams. 

 
Brief Hospital Course:
___ y/o F w/ thalassemia, DM, p/w obstructing renal calculus and 
___.  
.  
#Acute Kidney Injury: 
Creatinine was elevated from baseline 1.0-1.1 to 1.6 at 
presentation. Patient appeared mildly volume depleted, but 
denies any decrease in PO intake or excess losses. She did 
receive IV contrast on ___ for CTU. Unilateral kidney stone in 
setting of otherwise normal renal function was considered 
unlikely to be causing ___. Urine lytes showed pre-renal 
picture, and patient received IVF bolus. UA showed blood, rbcs 
and wbcs. Most likely etiology ___ was IV contrast in setting 
of volume depletion from UTI and kidney stone. Creatinine 
improved to 1.2 at discharge. 
.
# Nephrolithiasis: Patient presented with flank and groin pain, 
blood in UA and UVJ stone described as "tiny" on CTU. Renal U/S 
showed interval development of right hydronephrosis. Patient was 
seen by urology in ED, recommended conservative treatmemt with 
Flomax and pain control. Patient Patient was treated with IV 
then PO morphine. UA revealed uric acid crystals, and serum uric 
acid was elevated at 8.2. Urine pH was low at 5.0. Patient was 
hydrated and given Bicitra to alkalinize urine. Urology 
recommended outpatient follow-up, and re-evaluation for 
cystoscopy if stone not passed by 2 weeks. Patient will continue 
Flomax and Bicitra at home. She will need repeat serum uric acid 
after this episode, to determine need for allopurinol. 
.
#. UTI/pyelonephritis:
Initial UA was indeterminate and Ucx was read in error as 
>100,000 organisms. Repeat UA showed blood, 26 rbc, 61 wbc and 
few bacteria. Urine cx was negative, however patient had already 
received antibiotics. She did have right-sided flank pain and 
dysuria. Considering she is at higher risk for infection and 
pyelo due to obstructing UVJ stone, she was continued on cipro. 
In addition, her initial leukocytosis improved after cipro. She 
will complete a 14 day course for presumed pyelo. 
.  
# Thalassemia/Anemia: Hct at baseline. Receives weekly 
transfusions. Should follow-up with Dr. ___: uric acid 
level.     
.  
# Diabetes: Oral hypoglycemics held during hospitalization. 
Glyburide-metformin restarted at discharge as renal function was 
improving. 
.  
# Hypertension: Held diovan/HCTZ until evaluated by PCP. 
Continued amlodipine and nebivalol. Normotensive during hospital 
course. 
.  
# Hypercholesterolemia: continued home medications.
 
Medications on Admission:
Diovan-HCTZ 320-25mg daily  
Calcium + Vitamin D  
Centrum silver  
Crestor 10  
Prilosec 20  
Bystolic 10mg daily  
Glyburide-Metformin ___  
Amlodipine 10mg  
Folic Acid 1mg  
Procrit 60,000 weekly  
Fenofibrate 160mg daily  
Magnesium daily  
potassium daily  
 
Discharge Medications:
1. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime) for 1 weeks: 
Please take one capsule at night. Do not take if you feel dizzy 
or lightheaded before bedtime.
Disp:*10 Capsule, Sust. Release 24 hr(s)* Refills:*0*
2. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Rosuvastatin 5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Calcium Carbonate 500 mg Tablet, Chewable Sig: Three (3) 
Tablet, Chewable PO BID (2 times a day).  
9. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 10 days: Please do NOT take with your Tums.
Disp:*10 Tablet(s)* Refills:*0*
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Sodium Citrate-Citric Acid ___ mg/5 mL Solution Sig: 
Thirty (30) ML PO QID (4 times a day) for 4 days.
Disp:*480 ML(s)* Refills:*0*
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
13. Morphine 15 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain for 5 days: Please take 1 tablet as needed 
for pain. Please do not take if you are feeling sedated or feel 
dizzy.
Disp:*7 Tablet(s)* Refills:*0*
14. Fenofibrate Micronized 145 mg Tablet Sig: One (1) Tablet PO 
daily ().  
15. Glyburide Micronized-Metformin ___ mg Tablet Sig: One (1) 
Tablet PO once a day.  
16. Nebivolol 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Nephrolithiasis

SECONDARY:
Hypertension

 
Discharge Condition:
The patient was in fair condition at discharge. Her pain was 
well controlled on morphine, she was tolerating POs, and was 
able to ambulate without difficulty on room air. Her kidney 
function was improving and had almost returned to baseline.

 
Discharge Instructions:
It was a pleasure participating in your care the the ___ 
___. You were admitted to the hospital 
with worsening pain attributed to a kidney stone on your left 
side as well as a possible infection of your kidneys. In the 
hospital, we performed an ultrasound to examine the stone and 
tested your blood to evaluate your kidney function. We also 
started you on antibiotics (ciprofloxacin) for your infection 
and also gave you some new medicines (tamulosin and Bicitra) to 
help you pass your kidney stone. We managed your pain with 
morphine. During your stay, your kidney function and pain 
steadily improved.

During your stay in the hospital - we decided to stop your 
Diovan-HCTZ because taking this medication makes it difficult to 
assess kidney function and may make you more prone to forming 
kidney stones. We are holding this medication at discharge as 
well. Please see your PCP about restarting this medication or if 
there are other options to control your blood pressure.
.
You may take Tylenol, Motrin or morphine pills for pain. You 
should continue to strain your urine and monitor for passing the 
stone.
.
Please return to the hospital if you have worsening back and 
flank pain, more blood in the urine, fevers, chills, 
nightsweats, nausea, vomiting or other concerning symptoms. 
Please follow up with Urology in the next week and schedule an 
appointment with your primary care provider within the next 2 
weeks. See below for follow-up instructions.
 
Followup Instructions:
___